US09416132B2
80. N-(trans-4-((3-(3-chlorophenyl)imidazo[1,2-b]pyridazin-6-yl)amino)cyclohexyl)methanesulfonamide (EX. 8-80)
To a 0° C. solution of trans-N1-(3-(3-chlorophenyl)imidazo[1,2-b]pyridazin-6-yl)cyclohexane-1,4-diamine (50 mg, 0.146 mmol) and DIPEA (0.08 mL, 0.44 mmol) in DMSO (0.6 mL) was added dropwise MeSO3Cl (20 mg, 0.176 mmol). The resulting mixture was stirred at room temperature for 6 h. TLC (CH2Cl2:MeOH=10:1) showed most of starting material was converted. The mixture was partitioned between water (50 mL) and EtOAc (50 mL) and separated. The aqueous layer was extracted with EtOAc (50 mL×3). The combined extracts were dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by prep-HPLC to give EX. 8-80 (10.8 mg, 18%) as a white solid.

reactant | trans-N1-(3-(3-chlorophenyl)imidazo[1,2-b]pyridazin-6-yl)cyclohexane-1,4-diamine | 0.146 mmol, 50 mg | ClC=1C=C(C=CC1)C1=CN=C2N1N=C(C=C2)N[C@@H]2CC[C@H](CC2)N | C18H20ClN5
reactant | DIPEA | 0.44 mmol, 0.08 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | MeSO3Cl | 0.176 mmol, 20 mg | CS(=O)(=O)OCl | CH3ClO3S
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | DMSO | 0.6 mL | CS(=O)C | C2H6OS
solvent | MeOH | CO | CH4O
product | N-(trans-4-((3-(3-chlorophenyl)imidazo[1,2-b]pyridazin-6-yl)amino)cyclohexyl)methanesulfonamide | ClC=1C=C(C=CC1)C1=CN=C2N1N=C(C=C2)N[C@@H]2CC[C@H](CC2)NS(=O)(=O)C | C19H22ClN5O2S
